US08217035B2
N-{3-[6-(6-Amino-pyridin-3-yl)-2-morpholin-4-yl-pyrimidin-4-yl]pyridin-2-yl}-methanesulfonamide
To a solution of 5-[6-(2-fluoro-pyridin-3-yl)-2-morpholin-4-yl-pyrimidin-4-yl]-pyridin-2-ylamine (200 mg, 0.57 mmol) and methanesulfonamide (216 mg, 2.3 mmol) in NMP (8 mL) was added Cs2CO3 (372 mg, 1.1 mmol). The solution was heated at 125° C. for 4 hours. The reaction mixture was cooled to room temperature, filtered and purified by reverse phase preparatory HPLC to give the title compound. LC/MS (m/z): 428.3 (MH+), Rt 1.80 minutes.

reactant | 5-[6-(2-fluoro-pyridin-3-yl)-2-morpholin-4-yl-pyrimidin-4-yl]-pyridin-2-ylamine | 0.57 mmol, 200 mg | FC1=NC=CC=C1C1=CC(=NC(=N1)N1CCOCC1)C=1C=CC(=NC1)N | C18H17FN6O
reactant | methanesulfonamide | 2.3 mmol, 216 mg | CS(=O)(=O)N | CH5NO2S
reactant | Cs2CO3 | 1.1 mmol, 372 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | N-{3-[6-(6-Amino-pyridin-3-yl)-2-morpholin-4-yl-pyrimidin-4-yl]pyridin-2-yl}-methanesulfonamide | NC1=CC=C(C=N1)C1=CC(=NC(=N1)N1CCOCC1)C=1C(=NC=CC1)NS(=O)(=O)C | C19H21N7O3S
